US07304081B2
Step 1. 1-{4-[cyclopentyl(hydroxy)methyl]phenyl}cyclopropanecarbonitrile
To a solution of 1-(4-bromophenyl)cyclopropanecarbonitrile (2.01 g, 0.00905 mol) in tetrahydrofuran (30 mL, 0.4 mol) was added 2.5 M of n-butyllithium in hexane (4.0 mL) at −78° C. and the mixture was stirred at −30° C. for 30 minutes. A solution of cyclopentanecarbaldehyde (0.972 g, 0.00990 mol) in THF (2 mL) was added to the above mixture and the resulting mixture was stirred at −78° C. for 2 hours. The reaction was then quenched with a small amount of saturated aqueous NH4Cl solution followed by extraction with ethyl acetate, drying with MgSO4, and concentrating under reduced pressure. The crude product was purified by flash chromatography, eluting with 30% AcOEt in hexanes.

reactant | 1-(4-bromophenyl)cyclopropanecarbonitrile | 0.00905 mol, 2.01 g | BrC1=CC=C(C=C1)C1(CC1)C#N | C10H8BrN
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | cyclopentanecarbaldehyde | 0.00990 mol, 0.972 g | C1(CCCC1)C=O | C6H10O
solvent | hexane | 4.0 mL | CCCCCC | C6H14
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 0.4 mol, 30 mL | O1CCCC1 | C4H8O
product | 1-{4-[cyclopentyl(hydroxy)methyl]phenyl}cyclopropanecarbonitrile | C1(CCCC1)C(C1=CC=C(C=C1)C1(CC1)C#N)O | C16H19NO
